US07829585B2
2-Amino-6-methoxymethyl-nicotinic acid methyl ester
A mixture of 2-amino-6-chloro-nicotinic acid methyl ester (1.4 g, 7.6 mmol) described in Production Example 4-1-2, tributyl methoxymethyl stannane (3.1 g, 9.1 mmol) described in Production Example 4-1-3, tetrakis(triphenylphosphine) palladium (440 mg, 0.38 mmol) and N-methylpyrrolidinone (20 mL) was stirred for 3.5 hours at 130° C. The reaction mixture was allowed to cool on standing followed by the addition of aqueous potassium fluoride solution while cooling with ice and filtering through Celite. After washing the organic layer with sat. NaCl, the organic layer was distilled under a reduced pressure. The residue was purified by silica gel column chromatography (heptane/ethyl acetate=2/1) to obtain the title compound (0.93 g, 4.7 mmol, 63%) as a pale brown oil.

reactant | 2-amino-6-chloro-nicotinic acid methyl ester | 7.6 mmol, 1.4 g | COC(C1=C(N=C(C=C1)Cl)N)=O | C7H7ClN2O2
reactant | tributyl methoxymethyl stannane | 9.1 mmol, 3.1 g | C(CCC)[Sn](COC)(CCCC)CCCC
reactant | potassium fluoride | [F-].[K+]
catalyst | tetrakis(triphenylphosphine) palladium | 0.38 mmol, 440 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | N-methylpyrrolidinone | 20 mL | CN1C(CCC1)=O | C5H9NO
product | 2-Amino-6-methoxymethyl-nicotinic acid methyl ester | 4.7 mmol, 0.93 g, 63% | COC(C1=C(N=C(C=C1)COC)N)=O | C9H12N2O3
